US08633211B2
Step 2: (2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-acetic acid methyl ester
(2-Amino-benzylamino)-acetic acid methyl ester (0.50 g, 2 mmol) and bis(trichloromethyl)carbonate (0.54 g, 2 mmol) are dissolved in dioxane (5 ml) and stirred at RT for 24 hours. The reaction mixture is treated with water and extracted with EtOAc, the organic phase is dried over MgSO4, filtered and is concentrated in vacuo. Purification by flash column chromatography on silica, eluting with DCM:MeOH (10:1) affords the title compound. [M+H]+ 221.

reactant | (2-Amino-benzylamino)-acetic acid methyl ester | 2 mmol, 0.50 g | COC(CNCC1=C(C=CC=C1)N)=O | C10H14N2O2
reactant | bis(trichloromethyl)carbonate | 2 mmol, 0.54 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | water | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-acetic acid methyl ester | COC(CN1C(NC2=CC=CC=C2C1)=O)=O | C11H12N2O3
